US04263311
A suspension of 25 g. (0.064 mole) of 5,6-bis-(p-acetamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole, prepared as in Example 22, in 250 ml. of 6 N hydrochloric acid was refluxed with stirring under nitrogen for 1.75 hours. This solution was chilled, made alkaline with 10% aqueous sodium hydroxide and filtered. The precipitate was washed with a small amount of acetonitrile and recrystallized from acetonitrile with charcoal to give 5,6-bis(p-aminophenyl)-2,3-dihydroimidazo[2,1-b]thiazole, m.p. 205°-206.5° C.

reactant | 5,6-bis-(p-acetamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | 0.064 mole | C(C)(=O)NC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)NC(C)=O | C21H20N4O2S
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 5,6-bis(p-aminophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | NC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)N | C17H16N4S
